US04631143
A mixture of 400 mg of 2,3,6,7,10-pentakis-(hexylthio)-11-bromotriphenylene, 70 mg of sodium (7-octenyl)thiolate and 60 ml of DMEU is stirred for 3 hours at 90° under N2 and worked up in the usual manner, giving 2,3,6,7,10-pentakis-(hexylthio)-11-(7-octenylthio)-triphenylene.

reactant | 2,3,6,7,10-pentakis-(hexylthio)-11-bromotriphenylene | 400 mg | C(CCCCC)SC1=CC=2C3=CC(=C(C=C3C3=CC(=C(C=C3C2C=C1SCCCCCC)SCCCCCC)SCCCCCC)SCCCCCC)Br | C48H71BrS5
solvent | DMEU | 60 ml | CN1CCN(C1=O)C | C5H10N2O
product | 2,3,6,7,10-pentakis-(hexylthio)-11-(7-octenylthio)-triphenylene | C(CCCCC)SC1=CC=2C3=CC(=C(C=C3C3=CC(=C(C=C3C2C=C1SCCCCCC)SCCCCCC)SCCCCCC)SCCCCCC)SCCCCCCC=C | C56H86S6
